US08629137B2
Step 3: 6-(2,6-dichloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
2.75 g (13.0 mmol) 2,6-dichloro-pyrimidine-4-carboxylic acid chloride, 1.94 g (13.0 mmol) 4-methyl-3H-benzoxazol-2-one and 6.93 g (52.0 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. The mixture combined with ice water and the product precipitated as a solid was suction filtered, washed with water and dried i. vac.

reactant | 2,6-dichloro-pyrimidine-4-carboxylic acid chloride | 13.0 mmol, 2.75 g | ClC1=NC(=CC(=N1)C(=O)Cl)Cl | C5HCl3N2O
reactant | 4-methyl-3H-benzoxazol-2-one | 13.0 mmol, 1.94 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 52.0 mmol, 6.93 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(2,6-dichloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC1=NC(=CC(=N1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C13H7Cl2N3O3
